US08802663B2
Step 2: N-(4-(5-(1-cyclohexyl-5-(methoxymethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)propan-2-amine
Sodium cyanoborohydride (18.0 mg; 0.286 mmol) was added to a solution of 4-(5-(1-cyclohexyl-5-(methoxymethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde (95.3 mg; 0.26 mmol) and isopropylamine (44.3 μL; 0.52 mmol) in methanol (3 mL) and acetic acid (47 μL; 0.78 mmol) and the mixture was stirred at room temperature overnight. The solvent was removed in vacuo and water (3 mL) was added and the product extracted into DCM (3×2 mL). The combined organic fractions were passed through a hydrophobic frit and the solvent removed in vacuo. The residue was purified by flash chromatography on a 12+M Biotage column, eluting with DCM containing increasing amounts of 5% methanol in DCM to give Example 121 as an off white solid. 1H NMR: (CDCl3, 400 MHz) δ 8.15-8.06 (3 H, m), 7.48 (2 H, d, J=7.8 Hz), 5.03 (2 H, s), 4.36-4.26 (1 H, m), 3.89 (2 H, s), 3.47 (3 H, m), 3.00-2.88 (1 H, m), 2.04-1.90 (6 H, m), 1.75 (1 H, d, J=12.3 Hz), 1.50-1.40 (2 H, m), 1.40-1.25 (1 H, m), 1.18 (6 H, d, J=6.4 Hz). LC/MS: 410 (M+H)+. HPLC (Method A) Rt 2.46 min (Purity: 99.0%).

reactant | Sodium cyanoborohydride | 0.286 mmol, 18.0 mg | C(#N)[BH3-].[Na+]
reactant | 4-(5-(1-cyclohexyl-5-(methoxymethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | 0.26 mmol, 95.3 mg | C1(CCCCC1)N1N=CC(=C1COC)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C20H22N4O3
reactant | isopropylamine | 0.52 mmol, 44.3 μL | C(C)(C)N | C3H9N
reactant | acetic acid | 0.78 mmol, 47 μL | C(C)(=O)O | C2H4O2
solvent | methanol | 3 mL | CO | CH4O
product | N-(4-(5-(1-cyclohexyl-5-(methoxymethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)propan-2-amine | C1(CCCCC1)N1N=CC(=C1COC)C1=NC(=NO1)C1=CC=C(CNC(C)C)C=C1 | C23H31N5O2
